US05998436
Synthesis of ethyl 1-[6-(t-butylamino)-3-chloro-5-fluoropyridin-2-yl]-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate
To 3 ml chloroform solution of ethyl 3-ethoxy-2-(3-chloro-2,4,5-trifluorobenzoyl)acrylate prepared from 0.84 g of ethyl 3-chloro-2,4,5-trifluorobenzoylacetate by normal process was added 0.65 g of 2-amino-6-(t-butylamino)-3-chloro-5-fluoropyridine. The solution was concentrated under reduced pressure to obtain yellow solid residue. To this residue were added 0.7 g of anhydrous potassium carbonate and 3 ml of N,N-dimethylformamide, and the mixture was stirred at 90° C. for 25 minutes and allowed to cool. The solution was separated by adding 40 ml of chloroform and 300 ml of distilled water, and the chloroform layer was washed twice with 300 ml of distilled water, dried over anhydrous magnesium sulfate, concentrated under reduced pressure, and allowed to stand. The precipitate was collected by filtration, washed with ethanol and diisopropylether successively to obtain 1.06 g of the title compound as a pale yellow powder.

reactant | ethyl 3-ethoxy-2-(3-chloro-2,4,5-trifluorobenzoyl)acrylate | C(C)OC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)Cl)F)=O | C14H12ClF3O4
reactant | ethyl 3-chloro-2,4,5-trifluorobenzoylacetate | 0.84 g | ClC=1C(=C(C(=O)CC(=O)OCC)C=C(C1F)F)F | C11H8ClF3O3
reactant | 2-amino-6-(t-butylamino)-3-chloro-5-fluoropyridine | 0.65 g | NC1=NC(=C(C=C1Cl)F)NC(C)(C)C | C9H13ClFN3
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 1-[6-(t-butylamino)-3-chloro-5-fluoropyridin-2-yl]-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 1.06 g | C(C)(C)(C)NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)OCC)Cl)F | C21H18Cl2F3N3O3
